US07601844B2
To a solution of (R)-methyl 1-(2-amino-3-methylbutanoyl)-4-(4-chlorophenyl)piperidine-4-carboxylate (396 mg, 1.123 mmol) and benzoyl chloride (0.139 ml, 1.2 mmol) in CH2Cl2 (5 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.401 mL, 2.3 mmol). The mixture was stirred for 1 h at rt. The reaction was quenched with NaHCO3 (aq), extracted with dichloromethane, dried over Na2SO4 and concentrated. The residue was purified via column chromatography (20% EtOAc/heptane) to give (R)-methyl 1-(2-benzamido-3-methylbutanoyl)-4-(4-chlorophenyl)piperidine-4-carboxylate (467 mg, 91% yield) as a yellow solid.

reactant | (R)-methyl 1-(2-amino-3-methylbutanoyl)-4-(4-chlorophenyl)piperidine-4-carboxylate | 1.123 mmol, 396 mg | N[C@@H](C(=O)N1CCC(CC1)(C(=O)OC)C1=CC=C(C=C1)Cl)C(C)C | C18H25ClN2O3
reactant | benzoyl chloride | 1.2 mmol, 0.139 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.3 mmol, 0.401 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-methyl 1-(2-benzamido-3-methylbutanoyl)-4-(4-chlorophenyl)piperidine-4-carboxylate | 467 mg, 91% yield | C(C1=CC=CC=C1)(=O)N[C@@H](C(=O)N1CCC(CC1)(C(=O)OC)C1=CC=C(C=C1)Cl)C(C)C | C25H29ClN2O4
